US07674789B2
3-[8-(2,6-difluorophenyl)-2-({2-[(1-methylethyl)amino]ethyl]amino)-7-oxo-5,6,7,8-tetrahydropyrimido[4,5-d]pyrimidin-4-yl}-4-methyl-N-propylbenzamide
To a solution of compound 3-[8-(2,6-difluorophenyl)-2-(methylsulfinyl)-7-oxo-5,6,7,8-tetrahydropyrimido[4,5-d]pyrimidin-4-yl]-4-methyl-N-propylbenzamide (30 mg, 0.06 mmol) in DCM (5 mL) was added N-(1-methylethyl)-1,2-ethanediamine (0.037 mL, 0.30 mmol). The resultant solution was stirred at room temperature over night. The result mixture was concentrated. CombiFlash chromatography (mobile phase DCM/DCM [90]+MeOH[7]+NH4OH[3]) provided the title compound as a white solid (15 mg, 46%). LC-MS m/z 538 (M+H)+; 1H-NMR (MeOD) δ 1.00 (m, 9H), 1.65 (m, 2H), 2.31 (s, 3H), 2.61 (m, 2H), 2.73 (m, 2H), 3.20 (m, 2H), 3.40 (m, 1H), 4.11 (s, 2H), 7.17 (t, 2H), 7.46 (d, 1H), 7.52 (m, 1H), 7.69 (s, 1H), 7.86 (d, 1H).

reactant | 3-[8-(2,6-difluorophenyl)-2-(methylsulfinyl)-7-oxo-5,6,7,8-tetrahydropyrimido[4,5-d]pyrimidin-4-yl]-4-methyl-N-propylbenzamide | 0.06 mmol, 30 mg | FC1=C(C(=CC=C1)F)N1C(NCC2=C1N=C(N=C2C=2C=C(C(=O)NCCC)C=CC2C)S(=O)C)=O | C24H23F2N5O3S
reactant | N-(1-methylethyl)-1,2-ethanediamine | 0.30 mmol, 0.037 mL | CC(C)NCCN | C5H14N2
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
product | 3-[8-(2,6-difluorophenyl)-2-({2-[(1-methylethyl)amino]ethyl]amino)-7-oxo-5,6,7,8-tetrahydropyrimido[4,5-d]pyrimidin-4-yl}-4-methyl-N-propylbenzamide | 15 mg, 46% | FC1=C(C(=CC=C1)F)N1C(NCC2=C1N=C(N=C2C=2C=C(C(=O)NCCC)C=CC2C)NCCNC(C)C)=O | C28H33F2N7O2
